US06790866B2
4-[2-(N-isopropyl-phenylsulfonylamino)-5-trifluoromethylphenoxymethyl]cinnamic acid sodium salt
To a solution of 4-[2-(N-isopropyl-phenylsulfonylamino)-5-trifluoromethylphenoxymethyl]cinnamic acid (425 mg; prepared in Example 18(40).) in MeOH (5 ml), 2N NaOH (0.41 ml) was added. The mixture was stirred at room temperature. The mixture was distilled off azeotropically with benzene three times to give the title compound (430 mg) having the following physical data.

reactant | 4-[2-(N-isopropyl-phenylsulfonylamino)-5-trifluoromethylphenoxymethyl]cinnamic acid | 425 mg | C(C)(C)N(C1=C(OCC2=CC=C(C=CC(=O)O)C=C2)C=C(C=C1)C(F)(F)F)S(=O)(=O)C1=CC=CC=C1 | C26H24F3NO5S
reactant | NaOH | 2N, 0.41 ml | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 4-[2-(N-isopropyl-phenylsulfonylamino)-5-trifluoromethylphenoxymethyl]cinnamic acid sodium salt | 430 mg | [Na+].C(C)(C)N(C1=C(OCC2=CC=C(C=CC(=O)[O-])C=C2)C=C(C=C1)C(F)(F)F)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C26H24F3NO5S.Na/c1-18(2)30(36(33,34)22-6-4-3-5-7-22)23-14-13-21(26(27,28)29)16-24(23)35-17-20-10-8-19(9-11-20)12-15-25(31)32;/h3-16,18H,17H2,1-2H3,(H,31,32);/q;+1/p-1
